US05558971
Synthesis of poly(p-tert-butoxycarbonyloxy-styrene/p-hydroxystyrene)
To a solution of poly (p-tert-butoxycarbonyloxystyrene) (7.0 g) obtained in above (1) in 1,4-dioxane, conc. hydrochloric acid (5 ml) was added and continued to stir under reflux for 2 hours. After cooling, the reaction mixture was poured into H2O (1 l) and the polymer was precipitated. The polymer was filtered by suction, washed with H2O and dried under reduced pressure to give 4.8 g of poly(p-tert-butoxycarbonyloxystyrene/p-hydroxystyrene) as white powder having Mw 10000 (GPC with polystyrene calibration). The polymer was found to have p-tertbutoxycarbonyloxystyrene unit and p-hydroxystyrene unit in a molar ratio of ca. 4:6 based on 1HNMR.

reactant | p-tertbutoxycarbonyloxystyrene | C(C)(C)(C)OC(=O)OC1=CC=C(C=C)C=C1 | C13H16O3
reactant | p-hydroxystyrene | OC1=CC=C(C=C)C=C1 | C8H8O
product | p-tert-butoxycarbonyloxy-styrene p-hydroxystyrene | C(C)(C)(C)OC(=O)OC1=CC=C(C=C)C=C1.OC1=CC=C(C=C)C=C1 | InChI=1S/C13H16O3.C8H8O/c1-5-10-6-8-11(9-7-10)15-12(14)16-13(2,3)4;1-2-7-3-5-8(9)6-4-7/h5-9H,1H2,2-4H3;2-6,9H,1H2
